US06239131B1
Preparation of 1-phenyl-2-oxo-3-benzyloxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-benzyloxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.38 g) was dissolved in N,N-dimethylformamide (20 ml), iodobenzene (1.36 g), copper powder (286 mg), copper iodide (446 mg) and potassium carbonate (622 mg) were added, the mixture was stirred at 150° C. for 2 hours. The insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 1.00 g of the title compound.

reactant | 2-Oxo-3-benzyloxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.38 g | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OCC2=CC=CC=C2 | C17H17N3O3
reactant | iodobenzene | 1.36 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 622 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | copper | 286 mg | [Cu] | Cu
catalyst | copper iodide | 446 mg | [Cu](I)I
product | 1-phenyl-2-oxo-3-benzyloxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.00 g | C1(=CC=CC=C1)N1C(C(CNC2=C1C=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C23H21N3O3
